US06949680B2
e) Synthesis of 1,5-dimethyl-1-(4-oxo-4-phenylbutyl)-4-hexenyl acetate
1.76 ml of HCl (1N) was added slowly to a solution of 1.63 g (4.53 mmol) of 1,5-dimethyl-1-[3-(2-phenyl-1,3-dioxolan-2-yl)propyl]-4-hexenyl acetate obtained under d) in 30 ml of THF. The reaction mixture was stirred at 40° or 4 h, cooled down to room temperature, extracted with ether, washed with a saturated solution of NaCl (3×), dried (Na2SO4), filtered and concentrated. Column chromatography (SiO2, heptane/ether 4:1) yielded 1.34 g (94%) of a slightly yellow oil.

reactant | HCl | 1N, 1.76 ml | Cl | ClH
reactant | 1,5-dimethyl-1-[3-(2-phenyl-1,3-dioxolan-2-yl)propyl]-4-hexenyl acetate | 4.53 mmol, 1.63 g | C(C)(=O)OC(CCC=C(C)C)(CCCC1(OCCO1)C1=CC=CC=C1)C | C22H32O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,5-dimethyl-1-(4-oxo-4-phenylbutyl)-4-hexenyl acetate | C(C)(=O)OC(CCC=C(C)C)(CCCC(C1=CC=CC=C1)=O)C | C20H28O3
